US07105554B2
3-Hydroxy-4-pentyloxybenzaldehyde
n-Bromopentane (0.90 mL, 7.25 mmol, 1 eq) was added dropwise to a stirred solution of 3,4-dihydroxybenzaldehyde (1 g, 7.25 mmol, 1 eq) and cesium carbonate (7.07 g, 21.7 mmol, 3 eq) in N,N-dimethylformamide. The reaction mixture was stirred overnight and concentrated in vacuo. The residue was dissolved in ethyl acetate (50 mL), and the organic solution washed with water (2×50 mL), and brine (50 mL), then dried over magnesium sulfate and evaporated. Chromatography on silica with dichloromethane:petroleum ether (4:1) as eluent gave the product as a brown oil (367 mg, 24%). 1H NMR (CDCl3) δ 9.79 (s, 1H, O═C—H), 6.21 (s, 1H, OH), 4.08 (t, 2H, OCH2), 1.81 (m, 2H, OCH2CH2), 1.40 (m, 4H, CH2CH2CH3), 0.89 (t, 3H, CH3).

reactant | 3,4-dihydroxybenzaldehyde | 7.25 mmol, 1 g, 1 eq | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cesium carbonate | 21.7 mmol, 7.07 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Hydroxy-4-pentyloxybenzaldehyde | 367 mg, 24% | OC=1C=C(C=O)C=CC1OCCCCC | C12H16O3
